US07332501B2
e) 1′-[(6-Chloro-2-methyl-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine]
To a solution of 0.040 g (0.19 mmol) 6-chloro-2-methyl-1H-indole-3-carboxylic acid, 0.069 ml (0.40 mmol) N,N-diisopropylethylamine and 0.061 g (0.19 mmol) 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate in 1 ml dry N,N-dimethylformamide were added 0.036 g (0.19 mmol) spiro[isobenzofuran-1(3H), 4′-piperidine] at room temperature. After stirring for 1 h the reaction mixture was quenched with 0.5 M aqueous sodium hydroxide solution (20 ml) and extracted with ethyl acetate (2×30 ml). The combined organic layers were washed with water (2×30 ml) and brine (1×30 ml), dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (n-heptane/ethyl acetate) to give the title compound (0.036 g, 49%) as a white solid.

reactant | 6-chloro-2-methyl-1H-indole-3-carboxylic acid | 0.19 mmol, 0.040 g | ClC1=CC=C2C(=C(NC2=C1)C)C(=O)O | C10H8ClNO2
reactant | N,N-diisopropylethylamine | 0.40 mmol, 0.069 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.19 mmol, 0.061 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | spiro[isobenzofuran-1(3H), 4′-piperidine] | 0.19 mmol, 0.036 g | N1CCC2(CC1)OCC1=CC=CC=C12 | C12H15NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1′-[(6-Chloro-2-methyl-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | 0.036 g, 49% | ClC1=CC=C2C(=C(NC2=C1)C)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C22H21ClN2O2
